* File: hw3_2b.pex.netlist.pex
* Created: Sun May 14 13:24:08 2023
* Program "Calibre xRC"
* Version "v2016.4_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_HW3_2B%VIN 14 19 26 30 46
c0 46 0 0.5165f
c1 34 0 0.0880664f
c2 33 0 0.13725f
c3 30 0 0.523711f
c4 26 0 0.187916f
c5 22 0 0.181229f
c6 12 0 0.0563521f
c7 11 0 0.078599f
c8 3 0 0.0599457f
c9 2 0 0.585708f
r10 34 38 8
r11 33 36 9.94946
r12 33 35 9.94946
r13 33 34 13.2552
r14 30 36 218
r15 26 35 71.25
r16 21 22 8.16635
r17 19 21 2.295
r18 17 46 1.23261
r19 16 17 2.72212
r20 14 16 0.765
r21 11 12 8
r22 9 46 0.147609
r23 7 22 0.368261
r24 6 11 0.045
r25 6 9 0.0385127
r26 6 7 0.0385127
r27 3 38 0.0568659
r28 2 12 0.0590325
r29 2 3 2.1268
.ends

.subckt PM_HW3_2B%2 7 12 19 23
c0 27 0 0.108415f
c1 26 0 0.141908f
c2 23 0 0.430214f
c3 19 0 0.319798f
c4 15 0 0.373768f
c5 10 0 0.500484f
c6 6 0 0.0117508f
c7 2 0 0.059919f
r8 26 29 9.93722
r9 26 28 9.93722
r10 26 27 13.2552
r11 23 29 169.5
r12 19 28 119.75
r13 14 15 8.16635
r14 12 14 2.295
r15 9 10 2.72212
r16 7 9 0.765
r17 5 10 1.14587
r18 5 6 0.0296412
r19 4 15 0.724348
r20 4 6 0.0296412
r21 3 6 0.00770322
r22 2 27 0.0646966
r23 2 3 0.237391
.ends

.subckt PM_HW3_2B%3 7 12 19 23
c0 27 0 0.107873f
c1 26 0 0.141937f
c2 23 0 0.430014f
c3 19 0 0.319724f
c4 15 0 0.364138f
c5 10 0 0.530854f
c6 6 0 0.0294492f
c7 2 0 0.0526025f
r8 26 29 9.93722
r9 26 28 9.93722
r10 26 27 13.2552
r11 23 29 169.5
r12 19 28 119.75
r13 14 15 8.16635
r14 12 14 2.295
r15 9 10 2.72212
r16 7 9 0.765
r17 5 10 1.14587
r18 5 6 0.0296412
r19 4 15 0.724348
r20 4 6 0.0296412
r21 3 6 0.00770322
r22 2 27 0.0646966
r23 2 3 0.208478
.ends

.subckt PM_HW3_2B%4 7 12 19 23
c0 27 0 0.108394f
c1 26 0 0.141356f
c2 23 0 0.427436f
c3 19 0 0.31873f
c4 15 0 0.36061f
c5 10 0 0.521603f
c6 6 0 0.0296483f
c7 2 0 0.0606892f
r8 26 29 9.93722
r9 26 28 9.93722
r10 26 27 13.2552
r11 23 29 169.5
r12 19 28 119.75
r13 14 15 8.16635
r14 12 14 2.295
r15 9 10 2.72212
r16 7 9 0.765
r17 5 10 1.14587
r18 5 6 0.0296412
r19 4 15 0.724348
r20 4 6 0.0296412
r21 3 6 0.00770322
r22 2 27 0.0646966
r23 2 3 0.240435
.ends

.subckt PM_HW3_2B%5 7 12 19 23
c0 27 0 0.108421f
c1 26 0 0.138759f
c2 23 0 0.407711f
c3 19 0 0.311983f
c4 15 0 0.358606f
c5 10 0 0.517919f
c6 6 0 0.0297031f
c7 2 0 0.0629997f
r8 26 29 9.93722
r9 26 28 9.93722
r10 26 27 13.2552
r11 23 29 169.5
r12 19 28 119.75
r13 14 15 8.16635
r14 12 14 2.295
r15 9 10 2.72212
r16 7 9 0.765
r17 5 10 1.14587
r18 5 6 0.0296412
r19 4 15 0.724348
r20 4 6 0.0296412
r21 3 6 0.00770322
r22 2 27 0.0646966
r23 2 3 0.249565
.ends

.subckt PM_HW3_2B%GND 15 24 32 37 42 47 52
c0 55 0 0.251805f
c1 50 0 0.231641f
c2 45 0 0.234033f
c3 40 0 0.230502f
c4 35 0 0.216378f
c5 22 0 0.00937313f
c6 20 0 0.00937313f
c7 18 0 0.00937313f
c8 17 0 0.0718813f
c9 15 0 0.046601f
c10 10 0 0.151312f
c11 8 0 0.131556f
c12 6 0 0.123578f
r13 54 55 8.16635
r14 52 54 2.295
r15 49 50 8.16635
r16 47 49 2.295
r17 44 45 8.16635
r18 42 44 2.295
r19 39 40 8.16635
r20 37 39 2.295
r21 34 35 8.16635
r22 32 34 2.286
r23 26 27 8.16635
r24 24 26 0.116379
r25 23 55 0.754783
r26 21 50 0.754783
r27 21 22 0.00770322
r28 19 45 0.754783
r29 19 20 0.00770322
r30 17 27 0.343913
r31 17 18 0.0296412
r32 16 40 0.754783
r33 16 18 0.00770322
r34 13 27 0.175
r35 13 15 0.035
r36 12 35 0.754783
r37 12 15 0.035
r38 11 22 0.0296412
r39 10 23 0.039111
r40 10 11 0.531087
r41 9 20 0.0296412
r42 8 22 0.0296412
r43 8 9 0.521957
r44 7 18 0.0296412
r45 6 20 0.0296412
r46 6 7 0.49
.ends

.subckt PM_HW3_2B%VDD 15 24 25 30 35 40 45
c0 48 0 0.402474f
c1 43 0 0.387512f
c2 38 0 0.395998f
c3 33 0 0.387146f
c4 28 0 0.309722f
c5 22 0 0.00937313f
c6 20 0 0.00937313f
c7 18 0 0.00937313f
c8 17 0 0.0728885f
c9 15 0 0.0443215f
c10 10 0 0.151867f
c11 8 0 0.132111f
c12 6 0 0.124133f
r13 51 52 8.16635
r14 47 48 2.72212
r15 45 47 0.765
r16 42 43 2.72212
r17 40 42 0.765
r18 37 38 2.72212
r19 35 37 0.765
r20 32 33 2.72212
r21 30 32 0.765
r22 27 28 2.72212
r23 25 27 0.762
r24 24 51 0.116379
r25 23 48 0.84913
r26 21 43 0.84913
r27 21 22 0.00770322
r28 19 38 0.84913
r29 19 20 0.00770322
r30 17 52 0.343913
r31 17 18 0.0296412
r32 16 33 0.84913
r33 16 18 0.00770322
r34 13 52 0.175
r35 13 15 0.035
r36 12 28 0.84913
r37 12 15 0.035
r38 11 22 0.0296412
r39 10 23 0.039111
r40 10 11 0.531087
r41 9 20 0.0296412
r42 8 22 0.0296412
r43 8 9 0.521957
r44 7 18 0.0296412
r45 6 20 0.0296412
r46 6 7 0.49
.ends

